US06787652B1
2-[3,5-Dichloro-4-(4-hydroxy-3-piperidin-1-ylmethyl-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione
To a stirred solution of 2-[3,5-dichloro-4-(3-formyl-4-hydroxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (100 mg) in dichloromethane (3 mL) and dimethylformamide (0.5 mL) was added acetic acid (20 μL), piperidine (35 μL) and sodium triacetoxyborohydride (81 mg). After 6 h, the reaction was diluted into ethyl acetate, washed with saturated sodium bicarbonate, brine, dried (Na2SO4) and concentrated in vacuo to provide a solid mass. Trituration of the solids with ethyl acetate and methanol afforded the title compound of this EXAMPLE as a colorless solid, 73 mg (m.p. 15-217° C.). MS Calc.:463.3; Found:463.0.

reactant | 2-[3,5-dichloro-4-(3-formyl-4-hydroxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 100 mg | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C=O)Cl)N1N=CC(NC1=O)=O | C16H9Cl2N3O5
reactant | acetic acid | 20 μL | C(C)(=O)O | C2H4O2
reactant | piperidine | 35 μL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 81 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3,5-Dichloro-4-(4-hydroxy-3-piperidin-1-ylmethyl-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)CN1CCCCC1)Cl)N1N=CC(NC1=O)=O | C21H20Cl2N4O4
